US09056859B2
To a flask charged with tert-butyl (1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetate (375 mg, 2.0 mmol) was added TFA (10 mL). The mixture was allowed to sit at RT for half an hour. LC at that point indicated complete cleavage of the tert-butyl group. The volatiles were removed under reduced pressure. The residue was pumped under high vacuum for 15 minutes before DCM (20 mL) was added to the flask, followed by addition of oxalyl chloride (0.22 mL, 2.5 mmol) and a drop of DMF. The mixture was stirred at RT for 1 hour, and then cooled to 0° C. with an ice bath. Aluminum chloride (780 mg, 5.9 mmol) was added into the reaction. After stirring the solution for 10 minutes, ethylene was bubbled through the reaction with a needle. TLC showed consumption of all material within 1 hour. The crude reaction was dumped into ice, and extracted with DCM (100 mL×3). The extractions were combined, washed with brine, dried over sodium sulfate, adsorbed onto silica gel, and purified by MPLC. The solvent was removed under reduced pressure to afford 7,8-dihydronaphtho[2,3-c]furan-1,6(3H,5H)-dione,

reactant | tert-butyl (1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetate | 2.0 mmol, 375 mg | O=C1OCC2=C1C=CC(=C2)CC(=O)OC(C)(C)C | C14H16O4
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | oxalyl chloride | 2.5 mmol, 0.22 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Aluminum chloride | 5.9 mmol, 780 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 7,8-dihydronaphtho[2,3-c]furan-1,6(3H,5H)-dione | C1(OCC2=C1C=C1CCC(CC1=C2)=O)=O | C12H10O3
